US05554720
Preparation of 4,4'-Bis(2-hydroxyethylthio)biphenyl (BPHET)
A mixture of 4,4'-dimercaptobiphenyl (41.7 grams, 0.19 mole), 50% NaOH [31.2 grams (15.6 grams, 0.39 mole NaOH)], water (100 mL) and 2 β ethanol (60 mL) was heated under nitrogen under stirring while 2-chloroethanol (31.5 grams, 0.39 mole) was added dropwise at reflux. When addition was completed, additional 2 β ethanol (60 mL) was added to facilitate stirring. After being heated an additional 2.0 hours at reflux, the reaction mixture was allowed to cool and the product was collected by vacuum filtration, washed with water and dried in air.

reactant | 4,4'-dimercaptobiphenyl | 0.19 mole, 41.7 grams | SC1=CC=C(C=C1)C1=CC=C(C=C1)S | C12H10S2
reactant | NaOH | 0.39 mole, 31.2 grams | [OH-].[Na+]
reactant | water | 100 mL | O | H2O
reactant | 2-chloroethanol | 0.39 mole, 31.5 grams | ClCCO | C2H5ClO
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | 4,4'-Bis(2-hydroxyethylthio)biphenyl | OCCSC1=CC=C(C=C1)C1=CC=C(C=C1)SCCO | C16H18O2S2
